US06191124B1
Magnesium metal (0.29 g), 12 g atom) in dry THF (70 mL) was treated with (2-bromoethyl) benzene (0.44 mL) and an Iodine crystal. When the Iodine color had discharged additional (2-bromoethyl)benzene (1.2 mL) was added and the suspension was reacted for 24 hours. Solid imidazo[2,1-b]benzothiazole-3-carboxaldehyde (Formula J-3) (0.606 g, 3.0 mmol) was added and the mixture was reacted for 1.25 hours. The solution was decanted into 5% NH4Cl solution (250 mL) and the mixture was extracted with ethyl acetate. Drying and evaporation of the extract gave pure α-(2-phenylethyl)-imidazo[2,1-b]benzothiazole-3-methanol (Formula J-4) (0.81 g) after trituration of residue with acetonitrile. An aliquot of the triturated product was crystallized from acetonitrile solution to provide an analytical sample of α-(2-phenylethyl)-imidazo[2,1-b]benzothiazole-3-methanol (Formula J-4) (m.p. 174-175°).

reactant | Magnesium | 0.29 g | [Mg] | Mg
reactant | (2-bromoethyl) benzene | 0.44 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | Iodine | II | I2
reactant | (2-bromoethyl)benzene | 1.2 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | imidazo[2,1-b]benzothiazole-3-carboxaldehyde | 3.0 mmol, 0.606 g | N=1C=C(N2C1SC1=C2C=CC=C1)C=O | C10H6N2OS
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | α-(2-phenylethyl)-imidazo[2,1-b]benzothiazole-3-methanol | 0.81 g | C1(=CC=CC=C1)CCC(O)C1=CN=C2SC3=C(N21)C=CC=C3 | C18H16N2OS
